US08372841B2
Acetic acid 2-oxo-adamantan-5-yl ester
A solution of 5-hydroxy-2-adamantanone (2.6 g, 15.66 mmoles) in dichloromethane (DCM) (50 mL) was treated with dimethylaminopyridine (DMAP) (2.1 g, 17 mmoles) and acetic anhydride (2.3 mL, 23 mmoles) and stirred overnight at 50° C. The solvent was removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. Combined organic extracts were washed with water, dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure to provide the title compound as an off-white solid.

reactant | 5-hydroxy-2-adamantanone | 15.66 mmoles, 2.6 g | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | dimethylaminopyridine | 17 mmoles, 2.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 23 mmoles, 2.3 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Acetic acid 2-oxo-adamantan-5-yl ester | O=C1C2CC3CC(CC1C3)(C2)OC(C)=O | C12H16O3
